US08791161B2
(2-Fluoropyridin-3-yl)methanol (508 mg, 3.998 mmol) was first treated with SOCl2 (1.5 ml) in CH2Cl2 (5 ml) at rt for 3 hrs. The solvent was removed to get a crude 3-(chloromethyl)-2-fluoropyridine. Then following General Procedure A, the title compound (910 mg, 85%) was prepared from 2-amino-4-chlorobenzenethiol (957 mg, 5.995 mmol), K2CO3 (2.7 g, 19.98 mmol) in DMF (20 ml).

reactant | (2-Fluoropyridin-3-yl)methanol | 3.998 mmol, 508 mg | FC1=NC=CC=C1CO | C6H6FNO
reactant | SOCl2 | 1.5 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-(chloromethyl)-2-fluoropyridine | ClCC=1C(=NC=CC1)F | C6H5ClFN
